US04960771
Preparation of 4-Decyloxazolidin-2-one
26.465 g of 2-aminododecanol and 12.32 g of ethylene carbonate were heated at approximately 110° C. for 48 hours (preparation of the cyclic urethanes can be carried out without a solvent or in toluene solution)as a solvent. The reaction was followed by tlc and at the completion of the reaction the contents were cooled, dissolved in ethyl acetate and the organic solution was washed with brine and water. After drying, the filtrate was concentrated and the oily residue was kugelrohr distilled to give 27.33 g (96.56%) of colorless liquid, which slowly solidified, m.p. 31.5-32.5° C.

reactant | 2-aminododecanol | 26.465 g | NC(CO)CCCCCCCCCC | C12H27NO
reactant | ethylene carbonate | 12.32 g | C1(OCCO1)=O | C3H4O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Decyloxazolidin-2-one | 27.33 g, 96.56% | C(CCCCCCCCC)C1NC(OC1)=O | C13H25NO2
